US07153854B2
To a solution of 3-(7-ethyl-2-neopentylpyrrolo[1,2-b]pyridazin-4-yl)benzamide (35 mg) in ethanol (1 mL) was added water (0.2 mL) and potassium hydroxide (68.9 mg) at ambient temperature. The reaction mixture was heated at 60° C. After 2 hours, potassium hydroxide (100 mg) was added. After 5 hours, potassium hydroxide (100 mg) was added. After 12 hours, the mixture was acidified with 1N hydrogen chloride. The precipitate was filtered, washed with water and ethyl acetate to give 3-(7-ethyl-2-neopentylpyrrolo-[1,2-b]pyridazin-4-yl)benzoic acid as an yellow solid (19 mg, 54.1%).

reactant | 3-(7-ethyl-2-neopentylpyrrolo[1,2-b]pyridazin-4-yl)benzamide | 35 mg | C(C)C1=CC=C2N1N=C(C=C2C=2C=C(C(=O)N)C=CC2)CC(C)(C)C | C21H25N3O
reactant | water | 0.2 mL | O | H2O
reactant | potassium hydroxide | 68.9 mg | [OH-].[K+]
reactant | potassium hydroxide | 100 mg | [OH-].[K+]
reactant | potassium hydroxide | 100 mg | [OH-].[K+]
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 3-(7-ethyl-2-neopentylpyrrolo-[1,2-b]pyridazin-4-yl)benzoic acid | 19 mg, 54.1% | C(C)C1=CC=C2N1N=C(C=C2C=2C=C(C(=O)O)C=CC2)CC(C)(C)C | C21H24N2O2
